US06300334B1
d) 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid
2M Sodium hydroxide solution (30 ml) was added to a solution of ethyl 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate (16.13 g) in methanol (25 ml) and tetrahydrofuran (50 ml). After 6 hours, further 2M sodium hydroxide solution (30 ml) was added. After a further 2 hours, water (500 ml) was added and the mixture was extracted with ether (250 ml). The aqueous layer extracts were acidified with concentrated hydrochloric acid and extracted with ethyl acetate (3×250 ml). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was redissolved in tetrahydrofuran (100 ml) and evaporated to give the subtitle compound (13.58 g) as a solid.

reactant | Sodium hydroxide | 2M, 30 ml | [OH-].[Na+]
reactant | ethyl 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate | 16.13 g | CN1C(N(C2=C(C1=O)C(=CS2)C(=O)OCC)CC(C)C)=O | C14H18N2O4S
reactant | sodium hydroxide | 2M, 30 ml | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid | 13.58 g | CN1C(N(C2=C(C1=O)C(=CS2)C(=O)O)CC(C)C)=O | C12H14N2O4S
